US04946963
A mixture consisting of 2.27 g (0.0100 mol) of 3,4,5-trimethoxybenzohydroxamic acid (recrystalized from absolute ethanol prior to the reaction), 5 ml of pyridine, and 100 ml of methylene chloride was prepared in a 250 ml round-bottom flask. The mixture was cooled in an ice bath, and 2.00 g (0.0101 mol) of diethylmalonyl chloride was added dropwise over a 15 minute period. The reaction mixture was stirred for one hour at room temperature after which time all of the hydroxamic acid had dissolved. The solution was extracted three times with 50 ml portions of water, four times 50 ml portions of 5% hydrochloric acid, and two times with 50 ml portions of 5% sodium carbonate. The methylene chloride solution was dried (MgSO4) and evaporated to dryness under reduced pressure to give 2.86 g (81.5%) of crude 2-(3,4,5-trimethoxybenzoyl)-4,4-diethylisoxazolidine-3,5-dione as a solid residue: mp 103°-106° C. Recrystallization of 2.72 g of the crude product from 20 ml of absolute ethanol gave 2.14 g of 2-(3,4,5-trimethoxybenzoyl)-4,4-diethylisoxazolidine-3,5-dione: mp 107°-109.5° C.

reactant | 3,4,5-trimethoxybenzohydroxamic acid | 0.0100 mol, 2.27 g | COC=1C=C(C(=O)NO)C=C(C1OC)OC | C10H13NO5
reactant | diethylmalonyl chloride | 0.0101 mol, 2.00 g | C(C)C(C(=O)Cl)(C(=O)Cl)CC | C7H10Cl2O2
product | 2-(3,4,5-trimethoxybenzoyl)-4,4-diethylisoxazolidine-3,5-dione | 2.86 g, 81.5% | COC=1C=C(C(=O)N2OC(C(C2=O)(CC)CC)=O)C=C(C1OC)OC | C17H21NO7
